US06943183B2
3. Isoquinoline-1-carboxylic acid [2-((S)-1-imidazol-1-ylmethyl-2-methyl-propoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl]-amide
To a solution of 5-amino-6-((S)-1-imidazol-1-ylmethyl-2-methyl-propoxy)-3,4-dihydro-2H-naphthalen-1-one (105 mg, 0.335 mmol) and 1-isoquinoline carboxylic acid (70 mg, 0.402 mmol) in DMF (3 mL) was added Et3N (56 μL, 0.402 mmol) followed by HATU (153 mg, 0.402 mmol). The reaction was stirred at RT overnight. The DMF was removed under reduced pressure. The residue was diluted with EtOAc and washed with H2O, saturated aqueous NaHCO3 and brine, dried over Na2SO4, and concentrated. Purification by chromatography (5% MeOH/EtOAc with 1% NH4OH) afforded the title compound as a foam (66 mg, 0.141 mmol, 42%). The structure was confirmed by NMR and mass spectrometry. MS m/z 469 (M++H).

reactant | 5-amino-6-((S)-1-imidazol-1-ylmethyl-2-methyl-propoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.335 mmol, 105 mg | NC1=C2CCCC(C2=CC=C1O[C@@H](C(C)C)CN1C=NC=C1)=O | C18H23N3O2
reactant | 1-isoquinoline carboxylic acid | 0.402 mmol, 70 mg | C1(=NC=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | Et3N | 0.402 mmol, 56 μL | CCN(CC)CC | C6H15N
reactant | HATU | 0.402 mmol, 153 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Isoquinoline-1-carboxylic acid [2-((S)-1-imidazol-1-ylmethyl-2-methyl-propoxy)-5-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl]-amide | 0.141 mmol, 66 mg, 42% | N1(C=NC=C1)C[C@H](C(C)C)OC1=C(C=2CCCC(C2C=C1)=O)NC(=O)C1=NC=CC2=CC=CC=C12 | C28H28N4O3
